US06787541B1
N-(4-(2-Thienylcarbonyl)thieno[3,2-d]pyrimidin-2-yl)acetamide (Example 138)
A mixture of 2-aminothieno[3,2-d]pyrimidin-4-yl 2-thienylmethanone (0.07 g, 0.27 mmol), anhydrous pyridine (3 mL) and acetyl chloride (0.15 g, 1.88 mmol) was refluxed for 24 h, cooled to room temperature, poured into water (30 mL) and extracted with EtOAc (2×30 mL). The organic phase was washed with 1-M HCl (2×25 mL) and saturated brine (25 mL), dried (MgSO4) and concentrated in vacuo to give a yellow solid which was purified by chromatography (SiO2; heptane-EtOAc (2:1)] to give the title compound (50 mg, 58%) as a yellow solid.

reactant | 2-aminothieno[3,2-d]pyrimidin-4-yl 2-thienylmethanone | 0.27 mmol, 0.07 g | NC=1N=C(C2=C(N1)C=CS2)C(=O)C=2SC=CC2 | C11H7N3OS2
reactant | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
reactant | acetyl chloride | 1.88 mmol, 0.15 g | C(C)(=O)Cl | C2H3ClO
solvent | water | 30 mL | O | H2O
product | N-(4-(2-Thienylcarbonyl)thieno[3,2-d]pyrimidin-2-yl)acetamide | 50 mg, 58% | S1C(=CC=C1)C(=O)C=1C2=C(N=C(N1)NC(C)=O)C=CS2 | C13H9N3O2S2
